US09126970B2
Step c): Synthesis of 10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-7-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
10 g (27.7 mmol) of 12,12-dimethyl-7-phenyl-10,12-dihydro-10-azaindeno-[2,1-b]fluorene are dissolved in 275 ml of dimethylformamide under a protective-gas atmosphere, and 1.45 g of NaH, 60% in mineral oil (36 mmol), are added. After 1 h at room temperature, a solution of 2-chloro-4,6-diphenyl-1,3,5-triazine (8.2 g, 30.5 mmol) in 75 ml of dimethylformamide is added dropwise. The reaction mixture is then stirred at room temperature for 12 h. After this time, the reaction mixture is poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is extracted with hot toluene. The yield is 14.7 g (24.9 mmol, 90%).

reactant | 12,12-dimethyl-7-phenyl-10,12-dihydro-10-azaindeno-[2,1-b]fluorene | 27.7 mmol, 10 g | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=C(C=C3C1C2)C2=CC=CC=C2)C | C27H21N
reactant | NaH | 1.45 g | [H-].[Na+]
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 30.5 mmol, 8.2 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
solvent | dimethylformamide | 275 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-7-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)C1=CC=CC=C1 | C42H30N4
